US08198302B2
vii) 1,2-Dihydroxy-3-allyloxy-6-[(Z)-2-(3,4,5-trimethoxyphenyl)vinyl]-benzene, ZSB-84
Tetrabutylammonium fluoride (0.24 mL, 0.24 mmol, 1M in THF) was added to a solution of 1,2-di(t-butyldimethylsilyloxy)-3-allyloxy-6-[(Z)-2-(3,4,5-trimethoxyphenyl)vinyl]-benzene (69 mg, 0.120 mmol) and glacial acetic acid (14 μL, 0.24 mmol) in THF 4 mL at 0° C. The reaction mixture was allowed to warm to rt overnight, then cooled to 0° C. and water was added. The reaction mixture was extracted with t-BuOMe (3×) and the organic phase was dried (Na2SO4) and evaporated to dryness. Purification by column chromatography (SiO2 3:7 EtOAc:cyclohexane) gave ZSB-84 (36 mg, 84%) as an 96:4 mixture of Z:E isomers:

reactant | Tetrabutylammonium fluoride | 0.24 mmol, 1M, 0.24 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1,2-di(t-butyldimethylsilyloxy)-3-allyloxy-6-[(Z)-2-(3,4,5-trimethoxyphenyl)vinyl]-benzene | 0.120 mmol, 69 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C(=CC=C1\C=C/C1=CC(=C(C(=C1)OC)OC)OC)OCC=C)O[Si](C)(C)C(C)(C)C | C32H50O6Si2
reactant | acetic acid | 0.24 mmol, 14 μL | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1,2-Dihydroxy-3-allyloxy-6-[(Z)-2-(3,4,5-trimethoxyphenyl)vinyl]-benzene | OC1=C(C(=CC=C1\C=C/C1=CC(=C(C(=C1)OC)OC)OC)OCC=C)O | C20H22O6
